US04328153
A mixture of 1 g of 3-cyclopropylmethyl-6-chloro-7,8-dihydroxy-1-(p-hydroxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide, 1.3 ml of acetyl bromide and 200 ml of trifluoroacetic acid is heated at reflux for 2 hours. After evaporation to dryness, the residue is purified, if necessary, by recrystallization to give 3-cyclopropylmethyl-6-chloro-7,8-diacetoxy-1-(p-acetoxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide. Similarly tri-isobutyryloxy, -propionyloxy, -isovaleryloxy, -n-butyryloxy and -n-heptanoyloxy ester derivatives are prepared.

reactant | 3-cyclopropylmethyl-6-chloro-7,8-dihydroxy-1-(p-hydroxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | 1 g | Br.C1(CC1)CN1CCC2=C(C(C1)C1=CC=C(C=C1)O)C=C(C(=C2Cl)O)O
reactant | acetyl bromide | 1.3 ml | C(C)(=O)Br | C2H3BrO
solvent | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-cyclopropylmethyl-6-chloro-7,8-diacetoxy-1-(p-acetoxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | Br.C1(CC1)CN1CCC2=C(C(C1)C1=CC=C(C=C1)OC(C)=O)C=C(C(=C2Cl)OC(C)=O)OC(C)=O | InChI=1S/C26H28ClNO6.BrH/c1-15(29)32-20-8-6-19(7-9-20)23-14-28(13-18-4-5-18)11-10-21-22(23)12-24(33-16(2)30)26(25(21)27)34-17(3)31;/h6-9,12,18,23H,4-5,10-11,13-14H2,1-3H3;1H
